US07456211B2
4(c) (+/−)-(3RS,4SR)-N-[4-Butyl-1-(4-hydroxybenzyl)-2-oxopyrrolidin-3-yl-methyl]-N-hydroxyformamide
(+/−)-(3RS,4SR)-N-Benzyloxy-N-[4-butyl-1-(4-hydroxybenzyl)-2-oxopyrrolidin-3-ylmethyl]formamide (0.13 g, 0.32 mmol) was dissolved in methanol (5 mL) and stirred under a hydrogen balloon in the presence of palladium on activated carbon (30 mg) for 4 h. The reaction mixture was filtered, concentrated and the residue was purified by HPLC to afford the title compound as a white solid (0.071 g, 70%). MS(ES) m/e 321 [M+H]+.

reactant | (+/−)-(3RS,4SR)-N-Benzyloxy-N-[4-butyl-1-(4-hydroxybenzyl)-2-oxopyrrolidin-3-ylmethyl]formamide | 0.32 mmol, 0.13 g | C(C1=CC=CC=C1)ON(C=O)CC1C(N(CC1CCCC)CC1=CC=C(C=C1)O)=O | C24H30N2O4
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on activated carbon | 30 mg | [Pd] | Pd
product | (+/−)-(3RS,4SR)-N-[4-Butyl-1-(4-hydroxybenzyl)-2-oxopyrrolidin-3-yl-methyl]-N-hydroxyformamide | 0.071 g, 70% | C(CCC)C1C(C(N(C1)CC1=CC=C(C=C1)O)=O)CN(C=O)O | C17H24N2O4
